US05374720
The same procedure as in Example 1-1 was carried out by using p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (240 mg, 0.40 mmol) and (2S,4S)-4-mercapto-2-(N-methyl-2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidine (149 mg, 0.41 mmol) to obtain p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-2-(N-methyl-2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate (236 mg, yield: 82.7%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.40 mmol, 240 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-4-mercapto-2-(N-methyl-2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidine | 0.41 mmol, 149 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1CC(N1C)=O | C16H19N3O5S
product | p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-2-(N-methyl-2-azetidinon-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 236 mg, yield: 82.7% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C2CC(N2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C33H35N5O11S
